US09056863B2
To a suspension of 3-nitro-pyridin-4-ylamine (15 g) in DCM (250 mL) was added triethyl amine (30 mL), Boc2O (23.5 g) and DMAP (1.31 g). The mixture was stirred at ambient temperature for 2 days. The solid was filtered off, and the filtrate was concentrated in vacuo. The residue was washed with MTBE. The yellow crystal was collected to afford (3-nitro-pyridin-4-yl)-carbamic acid tert-butyl ester (17 g). This material and ethyl pyruvate (100 mL) were dissolved in ethanol (150 mL) and treated with hydrogen gas (50 psi) in the presence of 10% palladium on charcoal (3 g) at 50° C. for two days. The catalyst was filtered off, and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica (eluent: pentane/EtOAc 10:1→2:1) to afford 2-(4-tert-butoxycarbonylamino-pyridin-3-ylamino)-propionic acid ethyl ester (5 g) as a yellow solid. A larger sample of this compound prepared in a similar manner (9 g) was stirred in 4M HCl in 1,4-dioxane (40 mL) at ambient temperature for 5 h. The precipitated solid was filtered off, washed with MTBE, and dried. The filtrate was concentrated to dryness, washed with MTBE, and dried to afford a second crop of the product. Total yield of 3-methyl-3,4-dihydro-1H-pyrido[3,4-b]pyrazin-2-one hydrochloride (5 g) as a white solid. 2.2 g of this material was suspended in water (20 mL) and treated with 30% aq hydrogen peroxide (1.2 mL) and NaOH (to adjust pH to 7-8). The mixture was stirred at 75° C. for 2 days. More 30% aq hydrogen peroxide (0.15 mL) was added, and stirring was continued for 2 additional days. The volatiles were removed in vacuo. The residue was washed with EtOAc to afford 3-methyl-1H-pyrido[3,4-b]pyrazin-2-one (0.8 g) as a yellowish solid. 0.7 g of this material and PyBroP (2.11 g) were suspended in DMF (3 mL). DIPEA (1.16 mL) was added and the mixture was stirred at ambient temperature overnight. The precipitated solid was filtered off, washed with ethanol, and dried to afford 2-(benzotriazol-1-yloxy)-3-methyl-pyrido[3,4-b]pyrazine (0.7 g) as a white solid. 430 mg of this material was suspended in ethanol (13 mL) and treated with hydrazine hydrate (0.5 mL) at 85° C. for 20 min. The solid was filtered off, washed with ethanol, and dried to afford IId (180 mg) as a yellowish solid sufficiently pure for the next step.

reactant | 3-nitro-pyridin-4-ylamine | 15 g | [N+](=O)([O-])C=1C=NC=CC1N | C5H5N3O2
reactant | triethyl amine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 23.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.31 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3-nitro-pyridin-4-yl)-carbamic acid tert-butyl ester | 17 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)[N+](=O)[O-])=O | C10H13N3O4
